data/polar.json
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:2][O:4][c:7]1[cH:29][cH:17][c:15]([CH:24]=[C:23]2[CH:25]=[C:9]([Br:21])[C:13](=[O:20])[C:10]([Br:22])=[CH:26]2)[cH:18][cH:30]1.[cH:1]1[cH:8][cH:5][c:16]2[c:3]([cH:27]1)[CH:28]([Zn-:14]([Cl:11])[Cl:12])[CH:19]=[CH:6]2>>[Cl:11][Zn:14][Cl:12].[cH:1]1[cH:8][cH:5][c:16]2[c:3]([cH:27]1)[CH:28]([CH:24]([c:15]1[cH:17][cH:29][c:7]([O:4][CH3:2])[cH:30][cH:18]1)[c:23]1[cH:25][c:9]([Br:21])[c:13]([O-:20])[c:10]([Br:22])[cH:26]1)[CH:19]=[CH:6]2", "epd": [["Sigma-/Sigma+", [28, 14], [28, 24]], ["Pi-/Pi+", [24, 23], [23, 25]], ["Pi-/Pi+", [25, 9], [9, 13]], ["Pi-/LP+", [13, 20], [20]]]}
{"reaction_name": "Oxa-Michael addition", "rsmi": "[C:1]1(=[O:12])[CH:26]=[CH:16][C:20](=[N+:28]([O-:18])[O-:19])[CH:17]=[CH:27]1.[O:2]=[C:24]1[N:6]([CH3:21])[C:23](=[O:8])[N:7]([CH3:22])[C:25](=[O:3])[C:13]1=[CH:15][c:9]1[cH:29][cH:4][c:14]([O:11][CH3:10])[cH:5][cH:30]1>>[c:1]1([O:12][CH:15]([c:9]2[cH:29][cH:4][c:14]([O:11][CH3:10])[cH:5][cH:30]2)[c:13]2[c:24]([O-:2])[n:6]([CH3:21])[c:23](=[O:8])[n:7]([CH3:22])[c:25]2=[O:3])[cH:26][cH:16][c:20]([N+:28](=[O:18])[O-:19])[cH:17][cH:27]1", "epd": [["LP-/Pi+", [18], [28, 18]], ["Pi-/Pi+", [20, 28], [16, 20]], ["Pi-/Pi+", [26, 16], [1, 26]], ["Pi-/Sigma+", [12, 1], [12, 15]], ["Pi-/Pi+", [15, 13], [13, 24]], ["Pi-/LP+", [24, 2], [2]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[CH2:3]=[N:13][N:4]1[CH2:16][CH2:6][CH2:5][CH2:17]1.[cH:1]1[cH:11][cH:2][c:7]2[c:12]([o+:8][c:10](-[c:21]3[cH:18][cH:14][cH:22][cH:15][cH:19]3)[cH:9][cH:20]2)[cH:23]1>>[cH:1]1[cH:11][cH:2][c:7]2[c:12]([cH:23]1)[O:8][C:10]([c:21]1[cH:18][cH:14][cH:22][cH:15][cH:19]1)=[CH:9][CH:20]2[CH2:3][N:13]=[N+:4]1[CH2:16][CH2:6][CH2:5][CH2:17]1", "epd": [["LP-/Pi+", [4], [13, 4]], ["Pi-/Sigma+", [3, 13], [3, 20]], ["Pi-/Pi+", [20, 9], [9, 10]], ["Pi-/LP+", [10, 8], [8]]]}
{"reaction_name": "Eschenmoser fragmentation", "rsmi": "[Cl:1][CH2:4][CH2:5][CH:6]([O-:2])[CH2:8][O:3][CH3:7]>>[CH2:4]=[CH2:5].[Cl-:1].[O:2]=[CH:6][CH2:8][O:3][CH3:7]", "epd": [["Sigma-/Pi+", [5, 6], [4, 5]], ["Sigma-/LP+", [1, 4], [1]], ["LP-/Pi+", [2], [2, 6]]]}
{"reaction_name": "Bromoetherification", "rsmi": "[Br:4][Br:5].[CH2:1]([CH2:2][OH:7])[CH:3]=[CH2:6]>>[Br-:5].[CH2:1]1[CH2:2][OH+:7][CH:3]1[CH2:6][Br:4]", "epd": [["Pi-/Sigma+", [3, 6], [4, 6]], ["Sigma-/LP+", [4, 5], [5]], ["LP-/Sigma+", [7], [3, 7]]]}
{"reaction_name": "Thionyl chloride internal-return substitution", "rsmi": "[O:1]=[S:4]([Cl:3])[O:5][CH:2]([CH3:6])[CH3:7]>>[CH:2]([Cl:3])([CH3:6])[CH3:7].[O:1]=[S:4]=[O:5]", "epd": [["Sigma-/Pi+", [2, 5], [4, 5]], ["Sigma-/Sigma+", [3, 4], [2, 3]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[c:1]12[c:4]([cH:13][cH:11][cH:42][cH:6]1)-[c:5]1[c:2]([cH:7][cH:43][cH:12][cH:14]1)[N+:41]2=[CH:3][CH3:36].[c:8]1([P:37]([c:9]2[cH:19][cH:25][c:39]([N:16]([CH3:32])[CH3:33])[cH:26][cH:20]2)[c:10]2[cH:21][cH:27][c:40]([N:17]([CH3:34])[CH3:35])[cH:28][cH:22]2)[cH:18][cH:24][c:38]([N:15]([CH3:30])[CH3:31])[cH:29][cH:23]1>>[c:1]12[c:4]([c:5]3[c:2]([cH:7][cH:43][cH:12][cH:14]3)[n:41]1[CH:3]([CH3:36])[P+:37]([c:8]1[cH:18][cH:24][c:38]([N:15]([CH3:30])[CH3:31])[cH:29][cH:23]1)([c:9]1[cH:19][cH:25][c:39]([N:16]([CH3:32])[CH3:33])[cH:26][cH:20]1)[c:10]1[cH:21][cH:27][c:40]([N:17]([CH3:34])[CH3:35])[cH:28][cH:22]1)[cH:13][cH:11][cH:42][cH:6]2", "epd": [["LP-/Sigma+", [37], [37, 3]], ["Pi-/LP+", [3, 41], [41]]]}
{"reaction_name": "Tosylation activation", "rsmi": "[CH3:1][c:12]1[cH:3][cH:5][c:11]([S:2]([Cl:9])(=[O:13])=[O:14])[cH:6][cH:4]1.[CH3:7][CH2:15][O:8][H:10]>>[CH3:1][c:12]1[cH:3][cH:5][c:11]([S:2]([O:8][CH2:15][CH3:7])(=[O:13])=[O:14])[cH:6][cH:4]1.[Cl:9][H:10]", "epd": [["LP-/Sigma+", [8], [2, 8]], ["Pi-/LP+", [13, 2], [13]], ["LP-/Pi+", [13], [13, 2]], ["Sigma-/LP+", [2, 9], [9]], ["LP-/Sigma+", [9], [9, 10]], ["Sigma-/LP+", [8, 10], [8]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[C:5]12=[N:10][CH2:13][CH2:21][CH2:19][N:14]1[c:11]1[c:17]([cH:7][cH:26][cH:20][cH:22]1)[S:15]2.[O:1]=[S:6](=[O:2])([N:16]=[C:12]=[O:18])[c:24]1[cH:8][cH:3][c:23]([CH3:25])[cH:4][cH:9]1>>[O:1]=[S:6](=[O:2])([N-:16][C:12]([N:10]1[c:5]2[n+:14]([c:11]3[c:17]([cH:7][cH:26][cH:20][cH:22]3)[s:15]2)[CH2:19][CH2:21][CH2:13]1)=[O:18])[c:24]1[cH:8][cH:3][c:23]([CH3:25])[cH:4][cH:9]1", "epd": [["LP-/Pi+", [14], [5, 14]], ["Pi-/Sigma+", [10, 5], [10, 12]], ["Pi-/LP+", [12, 16], [16]]]}
